Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-1.83896546316
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:10][C:11]([H:12])([H:13])[H:14],-1.42056888888
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8],4.87107069066
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.94401847711
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[H:10],2.4584485215700003
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([O:3][C:4]#[C:5][H:6])[C:11]([H:12])([H:13])[H:14],2.40139661227
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],2.61697419236
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:9][C:10]([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],-2.23159140041
[C:8][H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],-2.21356684042
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:4]([H:5])[C:10]([H:11])([H:12])[O:13][H:14],3.44197586211
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9],2.66218752121
[H:8].[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.99563697049
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],1.2162076111
[H:4].[O:1]=[C:2]([C:3][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.83098850464
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.504716296669999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]#[C:8][O:9][H:10],3.51686630926
[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.58426046008
[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.73675831581
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],-1.22733877044
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.48987658376
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],4.75348262809
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-4.02590083821
[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.01065762014
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])#[C:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10],3.13231831932
[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2][C:11]([C:8]([C:3][C:4]([H:5])([H:6])[H:7])([H:9])[H:10])([H:12])[H:13],3.5840200918900003
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.01826621824
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1],5.97438631551
[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-3.7402497612
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-5.00074390232
